US05698577
Benzyl (1S,5R)-6-(3,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate
200 g (0.38 mol) of benzyl (1S,4S,5S)-6-(3,4-dimethoxybenzyl)-7-oxo-4-[[(1-imidazolyl)thiocarbonyl]oxy]-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate were heated to 80° C. in 4.2liters of toluene. A solution of 213 ml (0.8 mol) of tributyltin hydride and 6.9 g (0.04 mol) of AIBN in 320 ml of toluene were added dropwise thereto while stirring. After completion of the dropwise addition the mixture was stirred at this temperature for a further 45 minutes before the solvent was removed under reduced pressure. There remained behind a yellowish turbid oil which was chromatographed over 1100 g of silica gel (0.063-0.2 mm particle size with 1) ethyl acetate: hexane 1:10; 2) ethyl acetate: hexane 2:1.

reactant | benzyl (1S,4S,5S)-6-(3,4-dimethoxybenzyl)-7-oxo-4-[[(1-imidazolyl)thiocarbonyl]oxy]-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | 0.38 mol, 200 g | COC=1C=C(CN2[C@@H]3[C@H](CN([C@@H]3C2=O)C(=O)OCC2=CC=CC=C2)OC(=S)N2C=NC=C2)C=CC1OC | C26H26N4O6S
reactant | tributyltin hydride | 0.8 mol, 213 ml | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | 0.04 mol, 6.9 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | 4.2liters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 320 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl (1S,5R)-6-(3,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | COC=1C=C(CN2[C@@H]3CCN([C@@H]3C2=O)C(=O)OCC2=CC=CC=C2)C=CC1OC | C22H24N2O5
